### PR TITLE
[Merged by Bors] - feat(Algebra/SkewPolynomial/Basic): add API

### PR DESCRIPTION
**Pull request by mariainesdff**
We add API for SkewPolynomial, including monomial, coeff, C and X.

Co-authored by: @xgenereux.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 1]
```diff
@@ -36,6 +37,18 @@ to saying that `φ` is an endomorphism.
 
 Furthermore, with this notation `φ^[n](a) = (ofAdd n) • a`, see `φ_iterate_apply`.
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean:39]: I cannot add a comment to a part of the file that you haven't modified, but on line 33/34 there is a duplicate "an" .

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 2]
```diff
@@ -36,6 +37,18 @@ to saying that `φ` is an endomorphism.
...
 
+## Main definitions
+
+* `monomial n a` is the skew polynomial `a X ^ n`. Note that `monomial n` is defined as an
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]: Is `monomial` (and the other def below) in the `_root` namespace? I guess not, so this might be noted here.

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 3]
```diff
@@ -36,6 +37,18 @@ to saying that `φ` is an endomorphism.
...
+  `R`-linear map.
+* `C a` is the constant skew polynomial `a`. Note that `C` is defined as a additive homomorphism.
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]:
```suggestion
* `C a` is the constant skew polynomial `a`. Note that `C` is defined as an additive homomorphism.
```

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 4]
```diff
@@ -36,6 +37,18 @@ to saying that `φ` is an endomorphism.
...
+* `CRingHom a` is the constant skew polynomial `a`, as a ring homomorphism. This requires
+  to assume `[MulSemiringAction (Multiplicative ℕ) R]`.
+* `X` is the skew polynomial `X`, i.e., `monomial 1 1`.
+* `p.sum f` is `∑ n ∈ p.support, f n (p.coeff n)`, i.e., one sums the values of functions applied
+  to coefficients of the polynomial `p`.
+* `coeff p n` is the coefficient of `X ^ n` in `p`.
+
 ## Implementation notes
 
 The implementation uses `Multiplicative ℕ` instead of `ℕ` as some notion
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]: This sentence seems incomplete.

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 5]
```diff
@@ -60,7 +73,6 @@ Skew Polynomials, Twisted Polynomials.
 
 ## TODO :
   - Add algebra instance
-  - Add `ext` lemma in terms of `Coeff`.
 
 Note that [ore33] proposes a more general definition of skew polynomial ring, where the
 multiplication is determined by  $Xa = \varphi (a)X + δ (a)$, where `ϕ` is as above and
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]:
```suggestion
multiplication is determined by  $Xa = \varphi (a)X + δ (a)$, where `ϕ` is as above and
```
can you replace `ϕ` by `φ`

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 6]
```diff
@@ -72,18 +84,29 @@ multiplication is determined by  $Xa = \varphi (a)X + δ (a)$, where `ϕ` is as
...
 variable [Semiring R] {p q : SkewPolynomial R}
 
+instance : Inhabited (SkewPolynomial R) := SkewMonoidAlgebra.instInhabited
+
+instance : AddCommMonoid (SkewPolynomial R) := SkewMonoidAlgebra.instAddCommMonoid
+
+instance instSemiring [MulSemiringAction (Multiplicative ℕ) R] : Semiring (SkewPolynomial R) :=
+  SkewMonoidAlgebra.instSemiring
+
+lemma zero_def : (0 : SkewPolynomial R) = (0 : SkewMonoidAlgebra R (Multiplicative ℕ)) := rfl
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean:102]: I vaguely remember that `ℕₘ` has been introduced: am I wrong?

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 7]
```diff
@@ -92,6 +115,12 @@ The set of all `n` such that `X^n` has a non-zero coefficient.
 def support (p : SkewPolynomial R) : Finset ℕ :=
   Finset.map ⟨toAdd, toAdd.injective⟩ (SkewMonoidAlgebra.support p)
 
+/-- Though `SkewPolynomial.support` is not defeq to `SkewMonoidAlgebra.support` we can
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]:
```suggestion
/-- Though `SkewPolynomial.support` is not definitionally equal to `SkewMonoidAlgebra.support` we can
```

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 8]
```diff
@@ -101,26 +130,51 @@ lemma card_support_eq_zero : p.support.card = 0 ↔ p = 0 := by simp
...
+/-- For a skew polynomial `p`, `p.sum f` can be written in terms of `SkewMonoidAlgebra.sum p`. -/
+lemma sum_def' {S : Type*} [AddCommMonoid S] (p : SkewPolynomial R) (f : ℕ → R → S) :
+    p.sum f = SkewMonoidAlgebra.sum p (fun n r ↦ f (toAdd n : ℕ) r) :=
+  rfl
 
-/-- `monomial s a` is the monomial `a * X^s` -/
+lemma sum_def {S : Type*} [AddCommMonoid S] (p : SkewPolynomial R) (f : ℕ → R → S) :
+    p.sum f = ∑ n ∈ p.support, f n (p.coeff n) := by
+  rw [sum_def', SkewMonoidAlgebra.sum_def, Finsupp.sum]
+  simp only [toFinsupp_apply]
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]:
```suggestion
  simp only [sum_def', SkewMonoidAlgebra.sum_def, Finsupp.sum, toFinsupp_apply]
```

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 9]
```diff
@@ -101,26 +130,51 @@ lemma card_support_eq_zero : p.support.card = 0 ↔ p = 0 := by simp
...
+  apply Finset.sum_of_injOn (toAdd) (Injective.injOn fun ⦃a₁ a₂⦄ a ↦ a)
+  · intro; aesop (add norm coeff)
+  · aesop (add norm coeff)
+  · simp [coeff]
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]:
```suggestion
  apply Finset.sum_of_injOn (toAdd) (Injective.injOn fun ⦃a₁ a₂⦄ a ↦ a) (fun _ ↦ ?_) <;>
  simp +contextual [coeff]
```

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 10]
```diff
@@ -101,26 +130,51 @@ lemma card_support_eq_zero : p.support.card = 0 ↔ p = 0 := by simp
...
+
+lemma sum_sum_index {R' P : Type*} [AddCommMonoid P] [Semiring R']
+    {f : SkewPolynomial R} {g : ℕ → R → SkewPolynomial R'} {h : ℕ → R' → P}
+    (h_zero : ∀ (a : ℕ), h a 0 = 0)
+    (h_add : ∀ (a : ℕ) (b₁ b₂ : R'), h a (b₁ + b₂) = h a b₁ + h a b₂) :
+    sum (sum f g) h = sum f fun (a : ℕ) (b : R) => sum (g a b) h := by
+  simp only [sum_def', SkewMonoidAlgebra.sum_def]
+  erw [SkewMonoidAlgebra.toFinsupp_sum']
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]: Do you understand the need for this `erw`?

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 11]
```diff
@@ -72,18 +84,29 @@ multiplication is determined by  $Xa = \varphi (a)X + δ (a)$, where `ϕ` is as
...
+open Function Multiplicative SkewMonoidAlgebra
 
 /-- The skew polynomials over `R` is the type of univariate polynomials over `R`
 endowed with a skewed convolution product. -/
 abbrev SkewPolynomial (R : Type*) [AddCommMonoid R] := SkewMonoidAlgebra R (Multiplicative ℕ)
 
 namespace SkewPolynomial
-variable {R : Type*}
+
+variable {R : Type*} {a b : R} {m n : ℕ}
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]: These variables `a b` are needed much later and it's perhaps better to move them further below (or to leave them inside every lemma, if they're not too many).

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 12]
```diff
@@ -101,26 +130,51 @@ lemma card_support_eq_zero : p.support.card = 0 ↔ p = 0 := by simp
...
+
+@[simp]
+lemma sum_zero {N : Type*} [AddCommMonoid N] {f : SkewPolynomial R} :
+    (f.sum fun (_ : ℕ) _ => (0 : N)) = 0 :=
+  SkewMonoidAlgebra.sum_zero
+
+section Monomial
+
+/-- `monomial s a` is the monomial `a * X ^ s`. -/
 def monomial (n : ℕ) : R →ₗ[R] SkewPolynomial R := lsingle (ofAdd n)
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]: You've introduced an implicit `n : ℕ` above: was it really needed?

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 13]
```diff
@@ -138,11 +192,252 @@ lemma smul_monomial {S} [Semiring S] [Module S R] (a : S) (n : ℕ) (b : R) :
     a • monomial n b = monomial n (a • b) :=
   smul_single ..
 
+lemma sum_monomial (f : SkewPolynomial R) : f.sum (fun (a : ℕ) ↦ monomial a) = f :=
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean:186]: Don't we want this as `simp`?

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 14]
```diff
@@ -138,11 +192,252 @@ lemma smul_monomial {S} [Semiring S] [Module S R] (a : S) (n : ℕ) (b : R) :
...
+    (h_zero : h n 0 = 0) : (monomial n b).sum h = h n b :=
+  SkewMonoidAlgebra.sum_single_index h_zero
+
+lemma monomial_injective (n : ℕ) : Function.Injective (monomial n : R → SkewPolynomial R) := by
+  intro a b h
+  simp only [monomial_def] at h
+  exact single_injective (ofAdd n) h
+
+@[simp]
+lemma monomial_eq_zero_iff (t : R) (n : ℕ) : monomial n t = 0 ↔ t = 0 :=
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]: It is perhaps better to order the variables as `(n : ℕ) (t : R)`, no?

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 15]
```diff
@@ -138,11 +192,252 @@ lemma smul_monomial {S} [Semiring S] [Module S R] (a : S) (n : ℕ) (b : R) :
...
+  LinearMap.map_eq_zero_iff _ (SkewPolynomial.monomial_injective n)
+
+lemma monomial_eq_monomial_iff {m n : ℕ} {a b : R} :
+    monomial m a = monomial n b ↔ m = n ∧ a = b ∨ a = 0 ∧ b = 0 := by
+  rw [← Finsupp.single_eq_single_iff m n a b]
+  simp only [monomial_def, ← toFinsupp_single, toFinsupp_inj]
+  rfl -- abuses ℕ ≃ Multiplicative ℕ
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]: I agree it abuses this, can't this be avoided?

**Review by faenuccio — COMMENTED** [review]
I've reviewed everything before the section `phi`, I'll come back to that later on.

File: Mathlib/Algebra/SkewPolynomial/Basic.lean
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]: The type annotation `(1 : R)` is useless.

File: Mathlib/Algebra/SkewPolynomial/Basic.lean (hunk 2 above)
Comment (mariainesdff) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean]: I thought that full namespaces were no longer needed to get the right links in the docs, but I might be wrong. I will add them in either case.

File: Mathlib/Algebra/SkewPolynomial/Basic.lean (hunk 4 above)
Comment (mariainesdff) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean]: I completely agree, I changed this to
```
The implementation uses `Multiplicative ℕ` instead of `ℕ`, since Mathlib does not contain an
additive version of `SkewMonoidAlgebra`.
```
(We intentionally did not add `AddSkewMonoidAlgebra` to avoid duplication).

File: Mathlib/Algebra/SkewPolynomial/Basic.lean (hunk 6 above)
Comment (mariainesdff) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean:102]: Both `ℕₘ` and `ℕᵐ` give an error here. If this is available, I would expect it to be in the `Multiplicative` namespace (which is open), right?

File: Mathlib/Algebra/SkewPolynomial/Basic.lean (hunk 10 above)
Comment (mariainesdff) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean]: I do not know how to remove this, but the cause is
```
at reducible transparency,
  f.toFinsupp.sum
and
  SkewMonoidAlgebra.sum f
are not defeq, but they are at default transparency.
```

File: Mathlib/Algebra/SkewPolynomial/Basic.lean (hunk 12 above)
Comment (mariainesdff) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean]: I think that one was nice to introduce, it is used in several lemmas above this one. I will use
`variable (n)` here and remove `n` from subsequent lemmas.

File: Mathlib/Algebra/SkewPolynomial/Basic.lean (hunk 15 above)
Comment (mariainesdff) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean]: I could replace the `rfl` by
```
simp only [single, SkewMonoidAlgebra.ofFinsupp_inj, Finsupp.single_eq_single_iff, 
    EmbeddingLike.apply_eq_iff_eq]
```
Unless I am missing something, this does not rely on defeq abuse, because of the `EmbeddingLike.apply_eq_iff_eq` (but if you instead do something like `aesop`, it does).

**Comment by mariainesdff** [comment]
Thanks for the review! I have applied the changes so far (except for the couple of questions I left unresolved).

File: Mathlib/Algebra/SkewPolynomial/Basic.lean (hunk 6 above)
Comment (faenuccio) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean:102]: I would too, so please forget the noise.

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 16]
```diff
@@ -101,6 +131,92 @@ lemma card_support_eq_zero : p.support.card = 0 ↔ p = 0 := by simp
...
+@[simp]
+lemma monomial_eq_zero_iff (t : R) : monomial n t = 0 ↔ t = 0 :=
+  LinearMap.map_eq_zero_iff _ (SkewPolynomial.monomial_injective n)
+
+lemma monomial_eq_monomial_iff {m n : ℕ} {a b : R} :
+    monomial m a = monomial n b ↔ m = n ∧ a = b ∨ a = 0 ∧ b = 0 := by
+  rw [← Finsupp.single_eq_single_iff m n a b]
+  simp only [monomial_def, ← toFinsupp_single, toFinsupp_inj]
+  simp only [single, SkewMonoidAlgebra.ofFinsupp_inj, Finsupp.single_eq_single_iff,
+    EmbeddingLike.apply_eq_iff_eq]
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]:
```suggestion
  simp only [← ofFinsupp_single, SkewMonoidAlgebra.ofFinsupp_inj, Finsupp.single_eq_single_iff,
    EmbeddingLike.apply_eq_iff_eq]
```
Thanks, it's much better IMHO. I would even do this so as to rely on the lemma `ofFinsupp_single`.

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 17]
```diff
@@ -120,28 +236,212 @@ lemma φ_iterate_apply (n : ℕ) (a : R) : (φ^[n] a) = ((ofAdd n) • a) := by
...
+lemma monomial_mul_monomial [MulSemiringAction (Multiplicative ℕ) R] (n m : ℕ) (r s : R) :
+    monomial n r * monomial m s = monomial (n + m) (r * (φ^[n] s)) := by
+  rw [φ_iterate_apply]
+  exact SkewMonoidAlgebra.single_mul_single
 
-lemma monomial_zero_one [MulSemiringAction (Multiplicative ℕ) R] : monomial (0 : ℕ) (1 : R) = 1 :=
+lemma mul_def {f g : SkewPolynomial R} [MulSemiringAction (Multiplicative ℕ) R] : f * g =
+    f.sum fun (a₁ : ℕ) b₁ => g.sum fun (a₂ : ℕ) b₂ => monomial (a₁ + a₂) (b₁ * (φ^[a₁] b₂)) := by
+  simp_rw [φ_iterate_apply]
   rfl
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]: Actually this can be proven by
```
  ext 
  simp_rw [φ_iterate_apply]
  erw [coeff_sum]
```
I'm not 100% sure that this is much better, but at least it exposes the problem with some `defeq`. I should say that after all I'm not sure to understand why things like `support` and `coeff` are defined on `ℕ` (the first being a `Finset ℕ`, the second a function `ℕ → R`) rather than on `Multiplicative ℕ`, which would probably be more in accordance with your initial preamble where you say that you stick to `Multiplicative ℕ` due to the lack of appropriate additive version of skew algebras. Of course, we can consider resurrecting `ℕₘ` if this makes the code nicer. This might also have something to do with the discussion about the other `erw` we had before.

**Review by faenuccio — COMMENTED** [review]
I've added two more comments, in particular one concerning the definition of `supp` and `coeff`.

File: Mathlib/Algebra/SkewPolynomial/Basic.lean (hunk 17 above)
Comment (mariainesdff) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean]: `support` and `coeff` should be defined in terms of `ℕ` as they are for polynomials (after all, additively these are the same); the fact that skew polynomial is defined as `SkewMonoidAlgebra R (Multiplicative ℕ)` is an implementation detail that should not be visible to the users of this type.

Comment (faenuccio) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean]: Well, in principle I agree; but the problem is that the monoid underlying the definition of `Polynomial` is `Nat`, whereas here is it `Multiplicative Nat` and your definition abuses `defeq` (which you see by the amount of `erw` needed in your code.

Comment (mariainesdff) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean]: Right, because for `Polynomial` there is `AddMonoidAlgebra` duplicating `MonoidAlgebra`, which we do not want to do for `SkewMonoidAlgebra` (in particular this would require to also duplicate the `MulSemiringAction` class). However I still think that the additive notions are the correct ones here.

We are trying to minimize defeq abuse as much as possible, but I don't know if the one in the proof of `mul_def` can be avoided. On the other hand, we don't define the `support` of a `SkewPolynomial` to be its support as `SkewMonoidAlgebra` (which would typecheck, but abuse defeq), instead we use the image under the equivalence between `Nat` and `Multiplicative Nat`:
```
def support (p : SkewPolynomial R) : Finset ℕ :=
  Finset.map ⟨toAdd, toAdd.injective⟩ (SkewMonoidAlgebra.support p)
```
We do something similar for `coeff`. 
There are only two `erw` in this file (I just removed the third one, which was unrelated), and no more in the 12 API files we currently have for `SkewPolynomial`. I don't think this is a bad tradeoff.

Comment (mariainesdff) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean]: Update: I was able to remove both remaining `erw` (with slightly more complicated proofs).

File: Mathlib/Algebra/SkewMonoidAlgebra/Basic.lean [hunk 18]
```diff
@@ -1190,6 +1190,9 @@ def lsingle {α : Type*} (a : α) [Module R M] : M →ₗ[R] (SkewMonoidAlgebra
   __ := singleAddHom a
   map_smul' _ _ := (smul_single _ _ _).symm
 
+lemma lsingle_apply {α : Type*} (a : α) [Module R M] (m : M) :
+  lsingle (R := R) a m = single a m := rfl
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewMonoidAlgebra/Basic.lean]: I see no way how `lsingle` can infer the implicit variable `R`: don't you think it would make sense to turn it into an explicit one in the `def`?

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 19]
```diff
@@ -101,6 +124,91 @@ lemma card_support_eq_zero : p.support.card = 0 ↔ p = 0 := by simp
...
+
+/-- `p.sum f` is `∑ n ∈ p.support, f n (p.coeff n)`, i.e., one sums the values of functions applied
+  to coefficients of the polynomial `p`. -/
+def sum {S : Type*} [AddCommMonoid S] (p : SkewPolynomial R) (f : ℕ → R → S) : S :=
+  SkewMonoidAlgebra.sum p (fun n r ↦ f (toAdd n : ℕ) r)
+
+/-- For a skew polynomial `p`, `p.sum f` can be written in terms of `SkewMonoidAlgebra.sum p`. -/
+lemma sum_def' {S : Type*} [AddCommMonoid S] (p : SkewPolynomial R) (f : ℕ → R → S) :
+    p.sum f = SkewMonoidAlgebra.sum p (fun n r ↦ f (toAdd n : ℕ) r) := by
+  rfl
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]:
```suggestion
    p.sum f = SkewMonoidAlgebra.sum p (fun n r ↦ f (toAdd n : ℕ) r) := rfl
```

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 20]
```diff
@@ -101,6 +124,91 @@ lemma card_support_eq_zero : p.support.card = 0 ↔ p = 0 := by simp
...
+
+lemma sum_def {S : Type*} [AddCommMonoid S] (p : SkewPolynomial R) (f : ℕ → R → S) :
+    p.sum f = ∑ n ∈ p.support, f n (p.coeff n) := by
+  simp only [sum_def', SkewMonoidAlgebra.sum_def, Finsupp.sum, toFinsupp_apply]
+  apply Finset.sum_of_injOn (toAdd) (Injective.injOn fun ⦃a₁ a₂⦄ a ↦ a) (fun _ ↦ ?_) <;>
+  simp +contextual [coeff]
+
+lemma sum_sum_index {R' P : Type*} [AddCommMonoid P] [Semiring R']
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean:151]: Why the "index" in the name? Is it like this elsewhere in the library?

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 21]
```diff
@@ -101,6 +124,91 @@ lemma card_support_eq_zero : p.support.card = 0 ↔ p = 0 := by simp
...
+    {f : SkewPolynomial R} {g : ℕ → R → SkewPolynomial R'} {h : ℕ → R' → P}
+    (h_zero : ∀ (a : ℕ), h a 0 = 0)
+    (h_add : ∀ (a : ℕ) (b₁ b₂ : R'), h a (b₁ + b₂) = h a b₁ + h a b₂) :
+    sum (sum f g) h = sum f fun (a : ℕ) (b : R) => sum (g a b) h := by
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]: Sometimes you use `=>` and sometimes `↦`: can you make this uniform?

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 22]
```diff
@@ -101,6 +124,91 @@ lemma card_support_eq_zero : p.support.card = 0 ↔ p = 0 := by simp
...
+@[simp]
+lemma sum_zero {N : Type*} [AddCommMonoid N] {f : SkewPolynomial R} :
+    (f.sum fun (_ : ℕ) _ => (0 : N)) = 0 :=
+  SkewMonoidAlgebra.sum_zero
+
+section Monomial
+
+variable (n)
+
+/-- `monomial s a` is the monomial `a * X ^ s`. -/
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean:168]: It seems strange that all these lemmas are not tagged `simp`: what do you consider the `simp` normal form of a skew polynomial?

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 23]
```diff
@@ -101,6 +124,91 @@ lemma card_support_eq_zero : p.support.card = 0 ↔ p = 0 := by simp
...
+
+@[simp]
+lemma sum_monomial_index {N} [AddCommMonoid N] {n : ℕ} {b : R} {h : ℕ → R → N}
+    (h_zero : h n 0 = 0) : (monomial n b).sum h = h n b :=
+  SkewMonoidAlgebra.sum_single_index h_zero
+
+lemma monomial_injective : Function.Injective (monomial n : R → SkewPolynomial R) := by
+  intro a b h
+  simp only [monomial_def] at h
+  exact single_injective (ofAdd n) h
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]:
```suggestion
  simpa only [monomial_def] using single_injective (ofAdd n)
```

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 24]
```diff
@@ -120,28 +228,212 @@ lemma φ_iterate_apply (n : ℕ) (a : R) : (φ^[n] a) = ((ofAdd n) • a) := by
...
-/-- `monomial s a` is the monomial `a * X^s` -/
-def monomial (n : ℕ) : R →ₗ[R] SkewPolynomial R := lsingle (ofAdd n)
+lemma monomial_mul_monomial [MulSemiringAction (Multiplicative ℕ) R] (n m : ℕ) (r s : R) :
+    monomial n r * monomial m s = monomial (n + m) (r * (φ^[n] s)) := by
+  rw [φ_iterate_apply]
+  exact SkewMonoidAlgebra.single_mul_single
 
-lemma monomial_zero_right (n : ℕ) : monomial n (0 : R) = 0 := single_zero _
+lemma mul_def {f g : SkewPolynomial R} [MulSemiringAction (Multiplicative ℕ) R] : f * g =
+    f.sum fun (a₁ : ℕ) b₁ => g.sum fun (a₂ : ℕ) b₂ => monomial (a₁ + a₂) (b₁ * (φ^[a₁] b₂)) := by
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]:
```suggestion
    f.sum fun (a₁ : ℕ) b₁ => g.sum fun (a₂ : ℕ) b₂ => monomial (a₁ + a₂) (b₁ * φ^[a₁] b₂) := by
```

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 25]
```diff
@@ -120,28 +228,212 @@ lemma φ_iterate_apply (n : ℕ) (a : R) : (φ^[n] a) = ((ofAdd n) • a) := by
...
-lemma monomial_add (n : ℕ) (r s : R) :
-    monomial n (r + s) = monomial n r + monomial n s :=
-  single_add ..
+/-- `C a` is the constant SkewPolynomial `a`. `C` is provided as an additive homomorphism. -/
+def C : R →+ SkewPolynomial R := SkewMonoidAlgebra.singleAddHom 1
 
-lemma smul_monomial {S} [Semiring S] [Module S R] (a : S) (n : ℕ) (b : R) :
-    a • monomial n b = monomial n (a • b) :=
-  smul_single ..
+@[simp] lemma monomial_zero_left (a : R) : monomial 0 a = C a := rfl
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]: Why do you want `a` explicit here? Also, speaking about variables, can you shift them below the `def C`?

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 26]
```diff
@@ -120,28 +228,212 @@ lemma φ_iterate_apply (n : ℕ) (a : R) : (φ^[n] a) = ((ofAdd n) • a) := by
...
 
-lemma monomial_mul_monomial [MulSemiringAction (Multiplicative ℕ) R] (n m : ℕ) (r s : R) :
-    monomial n r * monomial m s = monomial (n + m) (r * (φ^[n] s)) := by
-  rw [φ_iterate_apply]
-  exact SkewMonoidAlgebra.single_mul_single
+lemma C_0 : C (0 : R) = 0 := single_zero _
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean:247]: Not `C_zero`? Do you have other examples in the library where we refer to zero as `0` in the naming?

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 27]
```diff
@@ -120,28 +228,212 @@ lemma φ_iterate_apply (n : ℕ) (a : R) : (φ^[n] a) = ((ofAdd n) • a) := by
...
+
+lemma C_add : C (a + b) = C a + C b := C.map_add a b
+
+lemma C_1 : C (1 : R) = 1 := rfl
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean:251]: Again, why not `C_one`?

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 28]
```diff
@@ -120,28 +228,212 @@ lemma φ_iterate_apply (n : ℕ) (a : R) : (φ^[n] a) = ((ofAdd n) • a) := by
...
+
+@[simp]
+lemma sum_C_index {a} {β} [AddCommMonoid β] {f : ℕ → R → β} (h : f 0 0 = 0) :
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]:
```suggestion
lemma sum_C_index {β} [AddCommMonoid β] {f : ℕ → R → β} (h : f 0 0 = 0) :
```

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 29]
```diff
@@ -120,28 +228,212 @@ lemma φ_iterate_apply (n : ℕ) (a : R) : (φ^[n] a) = ((ofAdd n) • a) := by
...
+`[MulSemiringAction (Multiplicative ℕ) R]`. -/
+def CRingHom : R →+* SkewPolynomial R := SkewMonoidAlgebra.singleOneRingHom
+
+lemma CRingHom_eq_C : CRingHom a = C a := rfl
+
+lemma C_mul : C (a * b) = C a * C b := CRingHom.map_mul a b
+
+lemma C_pow : C (a ^ n) = C a ^ n := CRingHom.map_pow a n
+
+lemma C_eq_natCast (n : ℕ) : C (n : R) = (n : SkewPolynomial R) := map_natCast CRingHom n
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean:271]: This should be called `C_natCast_eq`, I suppose, since the `natCast` comes before (look at the infoview)

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 30]
```diff
@@ -120,28 +228,212 @@ lemma φ_iterate_apply (n : ℕ) (a : R) : (φ^[n] a) = ((ofAdd n) • a) := by
...
+
+@[simp]
+lemma C_mul_monomial : C a * monomial n b = monomial n (a * b) := by
+  simp [← monomial_zero_left, monomial_mul_monomial, zero_add]
+
+@[simp]
+lemma monomial_mul_C : monomial n a * C b = monomial n (a * (⇑φ)^[n] b) := by
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]:
```suggestion
lemma monomial_mul_C : monomial n a * C b = monomial n (a * φ^[n] b) := by
```

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 31]
```diff
@@ -120,28 +228,212 @@ lemma φ_iterate_apply (n : ℕ) (a : R) : (φ^[n] a) = ((ofAdd n) • a) := by
...
+
+lemma X_pow_mul {n : ℕ} : X ^ n * p = sum p (fun (a : ℕ) b ↦ monomial a (φ^[n] b)) * X ^ n := by
+  induction n generalizing p with
+  | zero      => simp only [pow_zero, one_mul, Function.iterate_zero, id_eq, sum_monomial, mul_one]
+  | succ n ih =>
+    conv_lhs => rw [pow_succ]
+    rw [mul_assoc, X_mul, ← mul_assoc, ih, mul_assoc, ← pow_succ, sum_sum_index (by simp) (by simp)]
+    simp
+
+@[simp]
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean:314]: I like that this is `simp`, but once more I can't understand what's `simp` and what's not.

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 32]
```diff
@@ -120,28 +228,212 @@ lemma φ_iterate_apply (n : ℕ) (a : R) : (φ^[n] a) = ((ofAdd n) • a) := by
...
+    coeff (1 : SkewPolynomial R) 0 = 1 := coeff_monomial
+
+lemma coeff_one [MulSemiringAction (Multiplicative ℕ) R] (n : ℕ) :
+    coeff (1 : SkewPolynomial R) n = if 0 = n then 1 else 0 := by
+  have : (1 : SkewPolynomial R) = monomial 0 1 := by simp [← CRingHom_eq_C]
+  rw [this, coeff_monomial]
+
+@[simp] lemma coeff_X_one : coeff (X : SkewPolynomial R) 1 = 1 := coeff_monomial
+
+@[simp] lemma coeff_X_zero : coeff (X : SkewPolynomial R) 0 = 0 := coeff_monomial
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean:353]: Are these two lemmas `coeff_X_one` and `coeff_X_zero` (and then `coeff_X`) really useful? Can't you just tag `simp` the lemma `coeff_monomial`?

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 33]
```diff
@@ -120,28 +228,212 @@ lemma φ_iterate_apply (n : ℕ) (a : R) : (φ^[n] a) = ((ofAdd n) • a) := by
...
+    coeff (ofNat(a) : SkewPolynomial R) 0 = ofNat(a) := by simp [OfNat.ofNat]
+
+@[simp]
+lemma coeff_ofNat_succ [MulSemiringAction (Multiplicative ℕ) R] (a n : ℕ) [h : a.AtLeastTwo] :
+    coeff (ofNat(a) : SkewPolynomial R) (n + 1) = 0 := by
+  rw [← Nat.cast_ofNat]
+  simp [-Nat.cast_ofNat]
+
+lemma C_mul_X_pow_eq_monomial [MulSemiringAction (Multiplicative ℕ) R] :
+    ∀ {n : ℕ}, C a * X ^ n = monomial n a
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]:
```suggestion
    ∀ ⦃n : ℕ⦄, C a * X ^ n = monomial n a
```

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 34]
```diff
@@ -120,28 +228,212 @@ lemma φ_iterate_apply (n : ℕ) (a : R) : (φ^[n] a) = ((ofAdd n) • a) := by
...
+  SkewMonoidAlgebra.ext_iff
+
+@[ext] lemma ext {p q : SkewPolynomial R} : (∀ n, coeff p n = coeff q n) → p = q :=
+  SkewMonoidAlgebra.ext
+
+@[ext] lemma addHom_ext' {M : Type*} [AddMonoid M] {f g : SkewPolynomial R →+ M}
+    (h : ∀ n, f.comp (monomial n).toAddMonoidHom = g.comp (monomial n).toAddMonoidHom) : f = g :=
+  SkewMonoidAlgebra.addHom_ext' h
+
+lemma addHom_ext {M : Type*} [AddMonoid M] {f g : SkewPolynomial R →+ M}
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]: Why do you choose to tag `ext` the previous one and not this one?

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 35]
```diff
@@ -120,28 +228,212 @@ lemma φ_iterate_apply (n : ℕ) (a : R) : (φ^[n] a) = ((ofAdd n) • a) := by
...
+    (h : ∀ n a, f (monomial n a) = g (monomial n a)) : f = g :=
+  SkewMonoidAlgebra.addHom_ext h
+
+@[ext] lemma linearMap_ext' {M : Type*} [AddCommMonoid M] [Module R M]
+    {f g : SkewPolynomial R →ₗ[R] M} (h : ∀ n, f.comp (monomial n) = g.comp (monomial n)) :
+    f = g :=
+  SkewMonoidAlgebra.lhom_ext' h
+
+lemma eq_zero_of_eq_zero (h : (0 : R) = (1 : R)) (p : SkewPolynomial R) : p = 0 := by
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean:432]:
```suggestion
lemma eq_zero_of_zero_eq_one (h : (0 : R) = (1 : R)) (p : SkewPolynomial R) : p = 0 := by
```

**Review by faenuccio — COMMENTED** [review]
Thanks a lot for fighting agains that `erw`, I like this version much more!

File: Mathlib/Algebra/SkewPolynomial/Basic.lean (hunk 20 above)
Comment (mariainesdff) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean:151]: Yes, e.g. [Finsupp.sum_sum_index](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/BigOperators/Finsupp/Basic.html#Finsupp.sum_sum_index).

File: Mathlib/Algebra/SkewMonoidAlgebra/Basic.lean (hunk 18 above)
Comment (mariainesdff) [reply Mathlib/Algebra/SkewMonoidAlgebra/Basic.lean]: That would be good, I will make it explicit.

File: Mathlib/Algebra/SkewPolynomial/Basic.lean (hunk 26 above)
Comment (mariainesdff) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean:247]: Following [Polynomial.C_0](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Polynomial/Basic.html#Polynomial.C_0), [MvPolynomial.C_0](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/MvPolynomial/Basic.html#MvPolynomial.C_0).

File: Mathlib/Algebra/SkewPolynomial/Basic.lean (hunk 27 above)
Comment (mariainesdff) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean:251]: Same: [Polynomial.C_1](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Polynomial/Basic.html#Polynomial.C_1), [MvPolynomial.C_1](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/MvPolynomial/Basic.html#MvPolynomial.C_1)

File: Mathlib/Algebra/SkewPolynomial/Basic.lean (hunk 29 above)
Comment (mariainesdff) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean:271]: But then this should also be changed in [Polynomial.C_eq_natCast](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Polynomial/Basic.html#Polynomial.C_eq_natCast), right?
I think that renaming this - and potentially C_0, C_1 as you suggest above - should happen in a different PR that also does that for Polynomial/MvPolynomial; otherwise the names are not consistent.

File: Mathlib/Algebra/SkewPolynomial/Basic.lean (hunk 25 above)
Comment (mariainesdff) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean]: Just for consistency with [Polynomial.monomial_zero_left](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Polynomial/Basic.html#Polynomial.monomial_zero_left).

Comment (mariainesdff) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean]: I moved the variables.

File: Mathlib/Algebra/SkewPolynomial/Basic.lean (hunk 32 above)
Comment (mariainesdff) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean:353]: Answering to this and the other simp questions: we are largely following the `simp` design used in Algebra.Polynomial.Basic.

File: Mathlib/Algebra/SkewPolynomial/Basic.lean (hunk 35 above)
Comment (mariainesdff) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean:432]: I agree in principle, but we have [Polynomial.eq_zero_of_eq_zero](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Polynomial/Basic.html#Polynomial.eq_zero_of_eq_zero).

File: Mathlib/Algebra/SkewPolynomial/Basic.lean (hunk 34 above)
Comment (mariainesdff) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean]: Honestly I don't remember, but we probably were following the `Polynomial` design (which also does this).

File: Mathlib/Algebra/SkewPolynomial/Basic.lean (hunk 25 above)
Comment (faenuccio) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean]: For implicit/explicit, I don't want to be too pedantic, as it is not very important. But I would prefer both to be (strictly) implicit, so as to have `monomial_zero_left ⦃a : R⦄ : monomial 0 a = C a := rfl`. But feel free to ignore.

File: Mathlib/Algebra/SkewPolynomial/Basic.lean (hunk 27 above)
Comment (faenuccio) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean:251]: OK, I agree with you that a uniform choice is the right thing to do although I don't like the one for Polynomials.

File: Mathlib/Algebra/SkewPolynomial/Basic.lean (hunk 29 above)
Comment (faenuccio) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean:271]: Agreed!

File: Mathlib/Algebra/SkewPolynomial/Basic.lean (hunk 34 above)
Comment (faenuccio) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean]: I've checked the blame of the corresponding file and the two declarations have been added 2 years apart, so I suppose that one tag has been forgotten. I understand the uniformity business, but I would prefer to tag both.

**Review by faenuccio — COMMENTED** [review]
Thanks for all the work! I've left two minor comments (on a (strictly) implicit variable and on an `ext` tag) but I'll let you decide what is best.

**Review by faenuccio — COMMENTED** [review]
bors d+
